US04496590
Methyllithium (280 ml, 1M in ether) was added slowly to a solution of 31.9 g (0.1 mole) of 2-(4-benzyloxyphenylamino)benzoic acid (Example 2, part a) in 300 ml of tetrahydrofuran cooled to 0°-5° C. The reaction mixture was stirred at 0°-5° C. for 75 minutes. Ethyl acetate was then added and the mixture poured into a mixture of ice and saturated ammonium chloride solution. The aqueous suspension was extracted with ether, the ether extracts dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from isopropyl alcohol to give 24 g of 1-[2-(4-benzyloxyphenylamino)phenyl]ethanone.

reactant | Methyllithium | 1M, 280 ml | C[Li]
reactant | 2-(4-benzyloxyphenylamino)benzoic acid | 0.1 mole, 31.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C20H17NO3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1-[2-(4-benzyloxyphenylamino)phenyl]ethanone | 24 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=CC=C1)C(C)=O | C21H19NO2
